US08222246B2
6-(3-Butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy)-N-(3-methyloxetan-3-yl)-nicotinamide
As described in example 52g, 6-[3-butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (49 mg, 0.16 mmol) was converted, using 3-methyl 3-oxetanamine instead of cyclobutylamine, to the title compound (29 mg, 48%) which was obtained as a colorless oil. MS: m/e=376.3 [M+H]+.

reactant | 6-[3-butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.16 mmol, 49 mg | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C15H18N2O5
reactant | 3-methyl 3-oxetanamine | CC1(COC1)N | C4H9NO
product | 6-(3-Butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy)-N-(3-methyloxetan-3-yl)-nicotinamide | 29 mg, 48% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC2(COC2)C)C=C1)CO | C19H25N3O5
